US07851493B2
10.0 g 4-Hydroxymethyl-2-(4-methoxy-phenyl)-oxazole-5-carboxylic acid ethyl ester were dissolved in 85 ml dichloromethane. 4.0 ml 3,4-dihydro-2H-pyran and 1.85 mg pyridinium p-toluenesulfonate were added and the reaction mixture stirred at room temperature overnight. The solvent was removed in vacuo and the residue purified by flash chromatography on silica gel (eluting with n-heptane:ethyl acetate=4:1=>1:1) to obtain 12.3 g 2-(4-methoxy-phenyl)-4-(tetrahydro-pyran-2-yloxymethyl)-oxazole-5-carboxylic acid ethyl ester as an oil.

reactant | 4-Hydroxymethyl-2-(4-methoxy-phenyl)-oxazole-5-carboxylic acid ethyl ester | 10.0 g | C(C)OC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)OC)CO | C14H15NO5
reactant | 3,4-dihydro-2H-pyran | 4.0 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 1.85 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | 85 ml | ClCCl | CH2Cl2
product | 2-(4-methoxy-phenyl)-4-(tetrahydro-pyran-2-yloxymethyl)-oxazole-5-carboxylic acid ethyl ester | 12.3 g | C(C)OC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)OC)COC1OCCCC1 | C19H23NO6
